US08937092B2
To a stirred solution of 1-iodo-2-methyl-4-nitrobenzene (812 mg, 3.087 mmol) in dimethylformamide were added zinc cyanide (544 mg, 4.63 mmol) and tetrakis(triphenylphosphine) palladium (713 mg, 0.6174 mmol). The reaction mixture was stirred for 24 h at 120° C., then cooled to room temperature and diluted with ethyl acetate. The mixture was filtered using celite pad. The filtrate dissolved in ethyl acetate and extracted with NaHCO3. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography to give 2-methyl-4-nitrobenzonitrile (407 mg, 81%).

reactant | 1-iodo-2-methyl-4-nitrobenzene | 3.087 mmol, 812 mg | IC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6INO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 4.63 mmol, 544 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium | 0.6174 mmol, 713 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-methyl-4-nitrobenzonitrile | 407 mg, 81% | CC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C8H6N2O2
